US04902710
N-Methyl-3-chloro-benzenepropanamine hydrochloride (13.14 g, 0.06 mol), 25%, by weight, sodium hydroxide solution (9.6 g of solution; 0.06 mol of sodium hydroxide), sodium hydroxide pellets (2.0 g, 0.05 mol) and 2-methylbenzenethiol (6.2 g, 0.05 mol) were reacted to provide N-methyl-3-[(2-methylphenyl)thio]benzenepropanamine as an oil. The oil was purified by preparative HPLC and then converted to the hydrochloride salt as in Example 1. Recrystallization from methylene chlorideethyl acetate provided approximately 3.0 g of title compound. m.p. ≈90° C.

reactant | N-Methyl-3-chloro-benzenepropanamine hydrochloride | 0.06 mol, 13.14 g | Cl.CNCCCC1=CC(=CC=C1)Cl
reactant | sodium hydroxide | 0.06 mol, 9.6 g | [OH-].[Na+]
reactant | 2-methylbenzenethiol | 0.05 mol, 6.2 g | CC1=C(C=CC=C1)S | C7H8S
product | N-methyl-3-[(2-methylphenyl)thio]benzenepropanamine | CNCCCC1=CC(=CC=C1)SC1=C(C=CC=C1)C | C17H21NS
